US07511066B2
F. Methyl 4-tert-Butyl-2-hydroxybenzoate
A solution of 4-tert-butyl-2-(methoxymethoxy)benzoic acid (61.80 g, 259 mmol) and MeOH (865 mL) was cooled in an ice bath. Gaseous HCl was sparged through the cold fluid for 30 min to saturate it, and the solution was then heated to reflux. A Soxhlet extractor containing 3 Å molecular sieves was used to absorb the water produced in the reaction. After 16 h the heating mantle was removed, and the solution was allowed to cool to ambient temperature. The filtrate was concentrated to a thick semisolid which was taken up in 1:1 water/CH2Cl2 (800 mL). The aqueous layer was extracted once with CH2Cl2 (100 mL), and the combined organic layers were washed with water (250 mL) and 5% (w/w) NaHCO3 (200 mL). The organic layer was dried (MgSO4), filtered and concentrated to 49.54 g (92%) of yellow oil:

reactant | 4-tert-butyl-2-(methoxymethoxy)benzoic acid | 259 mmol, 61.80 g | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)OCOC | C13H18O4
reactant | MeOH | 865 mL | CO | CH4O
product | Methyl 4-tert-Butyl-2-hydroxybenzoate | C(C)(C)(C)C1=CC(=C(C(=O)OC)C=C1)O | C12H16O3
